datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7]([C:8]([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:11])([H:12])[H:13]>>[C:0]([C:1](=[C:2]([H:5])[H:6])[C:8]([C:7]([H:11])([H:12])[H:13])([C:9]([H:14])([H:15])[H:16])[C:10]([H:17])([H:18])[H:19])([H:3])[H:4],19.1627
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14](=[C:15]([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:26])[H:25])[H:24])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:22])[H:23])[H:24])([C:15]([c:16]1[c:17]([H:27])[c:18]([H:28])[c:19]([H:29])[c:20]([H:30])[c:21]1[H:31])[H:26])[H:25])[H:5],34.6435
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3](=[S:4])[H:12])[H:8])([H:5])([H:6])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])[C:3](=[S:4])[H:12])([H:5])([H:6])[H:7].[H:8][C:13]([H:14])([H:15])[H:16],36.861
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([C:8]([H:21])([H:22])[H:23])[H:20])[H:19])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])[C:7]1([C:8]([H:21])([H:22])[H:23])[H:20])[H:11])([H:9])[H:10],69.2034
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5](=[C:6]([C:7]#[C:8][H:17])[H:16])[H:15])([H:13])[H:14])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([H:13])([H:14])[C:5]1([C:6]([C:7]#[C:8][H:17])[H:16])[H:15])[H:9],80.9186
[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])[H:6])[H:5].[C:8](=[C:9]=[C:10]([H:13])[H:14])([H:11])[H:12]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:7])([H:6])[H:11])[H:5].[C:8](=[C:9]=[C:10]([H:13])[H:14])[H:12],62.3416
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[S:9]=[C:10]([S:11][H:13])[H:12]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:12])([H:4])[H:5].[S:9]=[C:10][S:11][H:13],67.2369
[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:9])([H:10])[H:11].[O:17][H:18]>>[C:0]([c:1]1[c:2]([H:12])[c:3]([H:13])[c:4]([C:5](=[O:6])[H:14])[c:7]([H:15])[c:8]1[H:16])([H:10])[H:11].[H:9][O:17][H:18],-2.518768
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[c:8]1[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]1[H:24])([H:14])([H:15])[H:16]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[c:8]1[c:9]([H:20])[c:10]([H:21])[c:11]([H:22])[c:12]([H:23])[c:13]1[H:24],-16.736
[C:0](=[C:1]([C:2]#[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:6])[H:7].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2](=[C:3][C:4](=[C:5]([H:10])[H:11])[H:9])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:8])([H:6])[H:7],68.9105
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6]>>[H:2][O:6].[N:0]([N:1]([H:4])[H:5])[H:3],40.0953
[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:9])[H:8].[c:15]1([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26]>>[S:0]([C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:9])[H:21])[H:8].[c:15]1[c:16]([H:22])[c:17]([H:23])[c:18]([H:24])[c:19]([H:25])[c:20]1[H:26],131.587
[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[C:19](=[C:20]([H:22])[H:23])[H:21]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]1([H:16])[C:6]2([H:17])[H:18].[H:11][C:19](=[C:20]([H:22])[H:23])[H:21],13.8072
[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])([H:15])[H:16])[H:14]>>[C:0]([C:1](=[S:2])[H:15])([H:3])([H:4])[H:5].[S:6]([C:7]([c:8]1[c:9]([H:17])[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]1[H:21])[H:16])[H:14],35.9824
[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]2[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]2([H:19])[C:7]1([H:20])[H:21].[H:12][C:22]([C:23](=[C:24]([H:28])[H:29])[H:27])([H:25])[H:26],66.1072
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](=[C:1]([C:2]([H:12])[H:13])[H:11])([H:9])[H:10].[C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:24])([H:25])[H:26])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15],313.624272
